US04514416
To 15 ml of 60% fuming sulfuric acid, while being cooled in ice, was added slowly 10.0 g of 4-amidinophenol hydrochloride. After the addition, the mixture was stirred at room temperature for 4 hours, then poured slowly into 200 ml of ice water, and stirred for a while. The colorless solid which was precipitated was collected by filtration, washed with water, then with acetone, and dried to obtain 10.2 g of 5-amidino-2-hydroxybenzenesulfonic acid.

reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-amidinophenol hydrochloride | 10.0 g | Cl.C(N)(=N)C1=CC=C(C=C1)O
product | 5-amidino-2-hydroxybenzenesulfonic acid | 10.2 g | C(N)(=N)C=1C=CC(=C(C1)S(=O)(=O)O)O | C7H8N2O4S
